US05708008
5-(pyridin-2-yl)thio-3-(1-methylpiperidin-4-yl)-1H-indole
Using 0.3 gm (1.0 mMol) 5-bromo-3-(1-methylpiperidin-4-yl)-1H-indole and 0.44 gm (1.99 mMol) di(pyridin-2-yl)disulfide gave 0.12 gm (37.0%) of the title compound as an off-white solid.

reactant | 5-bromo-3-(1-methylpiperidin-4-yl)-1H-indole | 1.0 mMol, 0.3 gm | BrC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H17BrN2
reactant | di(pyridin-2-yl)disulfide | 1.99 mMol, 0.44 gm | N1=C(C=CC=C1)SSC1=NC=CC=C1 | C10H8N2S2
product | 5-(pyridin-2-yl)thio-3-(1-methylpiperidin-4-yl)-1H-indole | 0.12 gm, 37.0% | N1=C(C=CC=C1)SC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C19H21N3S
